US08497281B2
(1H-Benzoimidazol-5-yl)-(trans-10b-ethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and trans-10b-ethyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1. Yield: 44% of theory; TLC: rf=0.42 (silica gel, CH2Cl2/MeOH/32% aqueous NH3 90:10:1); Mass spectrum (ESI+): m/z=360 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | trans-10b-ethyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C(C)[C@]12CCCN[C@H]2CCC2=C1C=CC=C2 | C15H21N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | (1H-Benzoimidazol-5-yl)-(trans-10b-ethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 44% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@]1(C3=C(CC[C@H]21)C=CC=C3)CC | C23H25N3O
